US04279833
2-Cyano-3-(N-methyl carbamyl)-1-butene was prepared through the following reaction. A three-necked 250 ml round bottom flask equipped with an overhead stirrer, N2 inlet, water condenser and dropping funnel was charged with 47.5 parts 2-(1-hydroxyethyl) acrylonitrile and 0.71 parts stannous octoate. To this stirred mixture, 28.5 parts methyl isocyanate was added through the dropping funnel. The mixture was maintained below 35° C. during addition by cooling and adjustment of the addition rate of the isocyanate. After the addition was complete, the mixture was stirred for an additional six hours. The product was then subjected to reduced pressure to remove any unreacted methyl isocyanate. The product was obtained as a viscous oil.

reactant | 2-(1-hydroxyethyl) acrylonitrile | OC(C)C(C#N)=C | C5H7NO
reactant | stannous octoate | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | methyl isocyanate | CN=C=O | C2H3NO
reactant | isocyanate | [N-]=C=O
product | 2-Cyano-3-(N-methyl carbamyl)-1-butene | C(#N)C(=C)C(C)C(NC)=O | C7H10N2O
